US06525202B2
[4-(1,4-Dioxa-8-aza-spiro[4.5]dec-8-yl)-phenyl]-methanol
Sodium borohydride (3.78 g, 100 mmol) was added in four portions to a stirred solution of 4-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-benzaldehyde (4.94 g, 20 mmol) (Taylor, E. C., Skotnicki, J. S. Synthesis, 1981, 606) in methanol/tetrahydrofuran (1:1, 100 mL) at 0° C. and the resulting solution was stirred at 0° C. for 30 minutes and then at room temperature for 1 hour. Methylene chloride was added and the solution was washed with water and dried over sodium sulfate. The solvents were removed and the residue was solidified upon standing (5.0 g, 100%); 1H NMR (300 MHz, CDCl3) δ 1.84 (t, J=5.7 Hz, 4H), 3.33 (t, J=5.7 Hz, 4H), 3.99 (s, 4H), 4.59 (d, J=5.8 Hz, 2H), 6.93 (d, J=8.7 Hz, 2H), 7.24 (d, J=8.7 Hz, 2H); MS (ES) m/z: 249.9 (MH+); HRMS Calcd. for C14H20NO3 (MH+): 250.1443. Found: 250.1434.

reactant | Sodium borohydride | 100 mmol, 3.78 g | [BH4-].[Na+]
reactant | 4-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-benzaldehyde | 20 mmol, 4.94 g | O1CCOC12CCN(CC2)C2=CC=C(C=O)C=C2 | C14H17NO3
reactant | Methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methanol tetrahydrofuran | 100 mL | CO.O1CCCC1
product | [4-(1,4-Dioxa-8-aza-spiro[4.5]dec-8-yl)-phenyl]-methanol | O1CCOC12CCN(CC2)C2=CC=C(C=C2)CO | C14H19NO3
